US04459414
4-(p-Methoxyphenylthio)-3,5,6-trichlorophthalic acid N-methylimide
41.41 g (138 millimols) of tetrachlorophthalic acid N-methylimide, 19.42 g (138 millimols) of p-methoxythiophenol, 57.43 g of potassium carbonate and 410 ml of tetrahydrofuran are stirred at 25° C. for 24 hours. After evaporation, the residue is acidified and extracted with methylene chloride. After drying and evaporation, the residue is recrystallised from toluene. This yields 35.38 g (64% of theory) of the title imide; melting point 182°-6° C.

reactant | tetrachlorophthalic acid N-methylimide | 138 millimols, 41.41 g | CN=C(C=1C(C(=O)O)=C(C(=C(C1Cl)Cl)Cl)Cl)O | C9H5Cl4NO3
reactant | p-methoxythiophenol | 138 millimols, 19.42 g | COC1=CC=C(C=C1)S | C7H8OS
reactant | potassium carbonate | 57.43 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 410 ml | O1CCCC1 | C4H8O
product | 4-(p-Methoxyphenylthio)-3,5,6-trichlorophthalic acid N-methylimide | CN=C(C=1C(C(=O)O)=C(C(=C(C1Cl)Cl)SC1=CC=C(C=C1)OC)Cl)O | C16H12Cl3NO4S
